US04537895
Preparation of 8-ethoxycarbonylamino-4-p-chloro-phenyl-2-methyl-1,2,3,4-tetrahydroisoquinoline
A solution of 13.1 g (0.047 mole) of 8-amino-4-p-chloro-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline and 300 ml of anhydrous benzene is admixed with a solution of 6.8 g (0.0625 mole, 6 ml) of ethyl chloroformate and 60 ml of anhydrous benzene. The reaction mixture is refluxed for 2.5 hours and the benzene is distilled off in vacuo. The residue is dissolved in 10 ml of water, made alkaline with 10 ml of a concentrated ammonium hydroxide solution and extracted three times with 100 ml of chloroform each. The chloroform extracts are united, dried over anhydrous sodium sulfate, evaporated and the residue is recrystallized twice from ethanol. Thus 7.3 g of the title compound are obtained in the form of white crystals, yield 45.6%, Mp.: 155° C.

reactant | 8-amino-4-p-chloro-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline | 0.047 mole, 13.1 g | NC=1C=CC=C2C(CN(CC12)C)C1=CC=C(C=C1)Cl | C16H17ClN2
reactant | ethyl chloroformate | 0.0625 mole, 6 ml, 6.8 g | ClC(=O)OCC | C3H5ClO2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 8-ethoxycarbonylamino-4-p-chloro-phenyl-2-methyl-1,2,3,4-tetrahydroisoquinoline | 7.3 g, yield 45.6% | C(C)OC(=O)NC=1C=CC=C2C(CN(CC12)C)C1=CC=C(C=C1)Cl | C19H21ClN2O2
